US04160099
1-n-DODECANOYLOXYMETHYL-3-METHYLIMIDAZOLIUM CHLORIDE (10)
A mixture of 2.49 g (0.01 mol) chloromethyl n-dodecanoate and 0.82 g (0.01 mol) 1-methylimidazole were mixed and heated together at 90° for 3 hrs. On cooling to room temperature, anhydrous ether overnite. The solid was isolated by filtration under a nitrogen atmosphere and thoroughly washed with anhydrous ether. After drying in vacuo over calcium sulfate at room temperature, 2.4 g (0.007 mol), 70%, 10 was obtained as a white solid, mp 60°-63°; ir (KBr) 3400, 3110, 2960, 2920, 1750, 1470, 1140 and 770 cm-1 ; pmr (CDCl3) δ 10.8 (s, 1H), 8.0 (d, 2H), 6.4 (s, 2H), 4.2 (s, 3H), 2.4 (t, 2H), 1.4 (bs, 18H) and 0.9 (bt, 3H) ppm.

reactant | chloromethyl n-dodecanoate | 0.01 mol, 2.49 g | C(CCCCCCCCCCC)(=O)OCCl | C13H25ClO2
reactant | 1-methylimidazole | 0.01 mol, 0.82 g | CN1C=NC=C1 | C4H6N2
reactant | KBr | [K+].[Br-]
solvent | ether | CCOCC | C4H10O
product | 1-n-DODECANOYLOXYMETHYL-3-METHYLIMIDAZOLIUM CHLORIDE | [Cl-].C(CCCCCCCCCCC)(=O)OC[N+]1=CN(C=C1)C | InChI=1S/C17H31N2O2.ClH/c1-3-4-5-6-7-8-9-10-11-12-17(20)21-16-19-14-13-18(2)15-19;/h13-15H,3-12,16H2,1-2H3;1H/q+1;/p-1
